US05587503
In a similar manner to Example 1, 30 g (0.17 mol) of 3-(methyldimethoxysilyl)propanol, 3 g of KOH and 120 g of DMSO were reacted at 60° C. with acetylene. 3-(Methyldimethoxysilyl)propyl vinyl ether was obtained in 95% yield.

reactant | 3-(methyldimethoxysilyl)propanol | 0.17 mol, 30 g | C[Si](CCCO)(OC)OC | C6H16O3Si
reactant | KOH | 3 g | [OH-].[K+]
reactant | acetylene | C#C | C2H2
solvent | DMSO | 120 g | CS(=O)C | C2H6OS
product | 3-(Methyldimethoxysilyl)propyl vinyl ether | 95% yield | C(=C)OCCC[Si](OC)(OC)C | C8H18O3Si
